US07897774B2
4-Bromomethyl-6-methoxyquinoline (Reference Compound No. 6-1)
N-Bromosuccinimide (0.92 g, 5.2 mmol) and 2,2′-azobisisobutyronitrile (0.095 g, 0.58 mmol) were added to a solution of 6-methoxy-4-methylquinoline (1.0 g, 5.8 mmol) in anhydrous benzene (15 mL) at room temperature, and the mixture was stirred for 5 hours under reflux. Further 2,2′-azobisisobutyronitrile (0.19 g, 1.2 mmol) was added thereto, and the mixture was stirred for 17 hours under reflux. The solvent was evaporated under reduced pressure, and the resulting residue was roughly purified by silica gel chromatography to give 0.26 g of mixture containing the title Reference Compound as green oil.

reactant | N-Bromosuccinimide | 5.2 mmol, 0.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 0.58 mmol, 0.095 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 6-methoxy-4-methylquinoline | 5.8 mmol, 1.0 g | COC=1C=C2C(=CC=NC2=CC1)C | C11H11NO
reactant | 2,2′-azobisisobutyronitrile | 1.2 mmol, 0.19 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 4-Bromomethyl-6-methoxyquinoline | 0.26 g | BrCC1=CC=NC2=CC=C(C=C12)OC | C11H10BrNO
